US05120633
4-(2-tetrahydropyranyloxy)benzyl methacrylate
4-(1-butoxyethoxy)benzyl methacrylate (or acrylate), and

reactant | 4-(1-butoxyethoxy)benzyl methacrylate | C(C(=C)C)(=O)OCC1=CC=C(C=C1)OC(C)OCCCC | C17H24O4
reactant | acrylate | C(C=C)(=O)[O-]
product | 4-(2-tetrahydropyranyloxy)benzyl methacrylate | C(C(=C)C)(=O)OCC1=CC=C(C=C1)OC1OCCCC1 | C16H20O4
